US05013482
108 g (0.5 mole) 1-methoxy-2-dodecanol are reacted with sodium chloroacetate (58.3 g; 0.5 mole) and powdered sodium hydroxide (20 g; 0.5 mole) as in Example 1 to yield 2-(1-Methoxymethylundecyloxy)acetic acid as a colourless oil, bp. 162° C./0.26 mbar, yield 59.0 g (43%).

reactant | 1-methoxy-2-dodecanol | 0.5 mole, 108 g | COCC(CCCCCCCCCC)O | C13H28O2
reactant | sodium chloroacetate | 0.5 mole, 58.3 g | ClCC(=O)[O-].[Na+]
reactant | sodium hydroxide | 0.5 mole, 20 g | [OH-].[Na+]
product | 2-(1-Methoxymethylundecyloxy)acetic acid | COCC(CCCCCCCCCC)OCC(=O)O | C15H30O4
